US05994368
A mixture of 8-benzyloxy-4-ethoxycarbonylmethoxy-2-methylquinoline (1.30 g) and palladium on carbon (130 mg) in a mixture of ethanol (8 ml) and dioxane (7 ml) was stirred for 3 hours at ambient temperature under hydrogen atmosphere. The reaction mixture was filtered, and the filtrate was concentrated in vacuo to give 4-ethoxycarbonylmethoxy-8-hydroxy-2-methylquinoline (539 mg).

reactant | 8-benzyloxy-4-ethoxycarbonylmethoxy-2-methylquinoline | 1.30 g | C(C1=CC=CC=C1)OC=1C=CC=C2C(=CC(=NC12)C)OCC(=O)OCC | C21H21NO4
catalyst | palladium on carbon | 130 mg | [Pd] | Pd
solvent | ethanol | 8 ml | C(C)O | C2H6O
solvent | dioxane | 7 ml | O1CCOCC1 | C4H8O2
product | 4-ethoxycarbonylmethoxy-8-hydroxy-2-methylquinoline | 539 mg | C(C)OC(=O)COC1=CC(=NC2=C(C=CC=C12)O)C | C14H15NO4
